US08486946B2
Step 2: Preparation of 4-diazo-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one
2,5-Bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one (0.63 g, 2.3 mmol) was suspended in acetonitrile (10 mL), treated with triethylamine (0.27 mL, 2.7 mmol, 1.15 equiv) and cooled to 0° C. To the mixture was added 4-acetamidobenzenesulfonyl azide (0.61 g, 2.5 mmol, 1.1 equiv) and after 30 minutes at 0° C., the mixture was warmed to ambient temperature. After stirring for 30 minutes, the mixture was poured into sodium carbonate (25 mL, aqueous saturated) and sodium hydroxide (10 mL, 1 N aqueous) and extracted with dichloromethane (2×125 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate), providing the titled compound.

reactant | 2,5-Bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | 2.3 mmol, 0.63 g | FC1=C(C=CC=C1)N1N=C(CC1=O)C1=C(C=CC=C1)F | C15H10F2N2O
reactant | triethylamine | 2.7 mmol, 0.27 mL, 1.15 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulfonyl azide | 2.5 mmol, 0.61 g, 1.1 equiv | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | sodium carbonate | 25 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1 N, 10 mL | [OH-].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-diazo-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | [N+](=[N-])=C1C(N(N=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C15H8F2N4O
